### PR TITLE
[Merged by Bors] - feat: port CategoryTheory.Simple

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Simple.lean [hunk 1]
```diff
@@ -0,0 +1,272 @@
...
+    rw [h, zero_comp]
+#align category_theory.biprod.is_iso_inl_iff_is_zero CategoryTheory.Biprod.isIso_inl_iff_isZero
+
+/-- Any simple object in a preadditive category is indecomposable. -/
+theorem indecomposable_of_simple (X : C) [Simple X] : Indecomposable X :=
+  ⟨Simple.not_isZero X, fun Y Z i => by
+    refine' or_iff_not_imp_left.mpr fun h => _
+    rw [IsZero.iff_isSplitMono_eq_zero (biprod.inl : Y ⟶ Y ⊞ Z)] at h
+    change biprod.inl ≠ 0 at h
+    have : Simple (Y ⊞ Z) := by exact Simple.of_iso i.symm -- Porting note: this instance is needed
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Simple.lean:214]:
```suggestion
    have : Simple (Y ⊞ Z) := Simple.of_iso i.symm -- Porting note: this instance is needed
```

**Comment by semorrison** [comment]
bors d+

**Comment by Parcly-Taxel** [comment]
bors merge
